US04124716
N-Ethyl-N-{2-[α-(tricyclo(2.2.1.02.6)hept-3-ylidene)-benzyloxy]ethyl}-amine
A solution of 90 g. (0.345 mol) of β-chloroethyl-{α[tricyclo-(2.2.1.02.6)hept-3-ylidene]-benzyl}-ether and 69 g. (1.53 mol) of ethylamine in 250 ml. of anhydrous benzene was heated for 5 hours to 140° C. in a 1 litre capacity autoclave. After cooling, the ethylamine hydrochloride was filtered off under suction, the mother liquor concentrated in vacuo and the residue subjected to acid-alkaline working up. The basic fraction was fractionated in vacuo.

reactant | β-chloroethyl-{α[tricyclo-(2.2.1.02.6)hept-3-ylidene]-benzyl}-ether | 0.345 mol | ClCCOC(C1=CC=CC=C1)=C1C2C3C2CC1C3 | C16H17ClO
reactant | ethylamine | 1.53 mol | C(C)N | C2H7N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-Ethyl-N-{2-[α-(tricyclo(2.2.1.02.6)hept-3-ylidene)-benzyloxy]ethyl}-amine | C(C)NCCOC(C1=CC=CC=C1)=C1C2C3C2CC1C3 | C18H23NO
